US04598079
1-methyl-3-(1-methylindol-3-yl)-4-formylpiperazin-2-one
The 1-methyl-3-(1-methylindol-3-yl)-5,6-dihydro-2(1H)-pyrazinone required as the starting material is prepared as follows: 45.5 g (0.2 mol) of 3-(1-methylindol-3-yl)-5,6-dihydro-2(1H)-pyrazinone, prepared in accordance with Example 33, are dissolved in 400 ml of dimethylformamide, 5.3 g (0.22 mol) of sodium hydride are introduced, the mixture is stirred for 4 hours at 60° C., 27.8 g (0.22 mol) of dimethyl sulphate are added dropwise and the mixture is stirred for 20 hours at 60° C. The compound which is precipitated by dilution with water is recrystallised from methanol.

reactant | 1-methyl-3-(1-methylindol-3-yl)-5,6-dihydro-2(1H)-pyrazinone | CN1C(C(=NCC1)C1=CN(C2=CC=CC=C12)C)=O | C14H15N3O
reactant | 3-(1-methylindol-3-yl)-5,6-dihydro-2(1H)-pyrazinone | 0.2 mol, 45.5 g | CN1C=C(C2=CC=CC=C12)C=1C(NCCN1)=O | C13H13N3O
reactant | sodium hydride | 0.22 mol, 5.3 g | [H-].[Na+]
reactant | dimethyl sulphate | 0.22 mol, 27.8 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-(1-methylindol-3-yl)-4-formylpiperazin-2-one | CN1C(C(N(CC1)C=O)C1=CN(C2=CC=CC=C12)C)=O | C15H17N3O2
